US07524667B2
The crude enzyme solution was added to a reaction mixture comprising 50 mmol/l Tris/HCl (pH 7.5), 0.5 mmol/l NADP, 10 mmol/l magnesium chloride and 2 mmol/l 6-phosphogluconic acid to make up to 1.5 ml. The resulting mixture was subjected to reaction in a 1-ml cuvette at 30° C. and the increase in the absorbance was measured at 340 nm. On the basis of the molar extinction coefficient of NADPH (6220), the amount of NADPH formed per minute was calculated. GND specific activity was expressed in terms of the amount of NADPH formed per mg of protein per minute.

reactant | Tris HCl | 50 mmol/l, pH 7.5 | C(C(CO)(CO)N)O.Cl
reactant | NADP | 0.5 mmol/l | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | magnesium chloride | 10 mmol/l | [Cl-].[Mg+2].[Cl-]
reactant | 6-phosphogluconic acid | 2 mmol/l | P(=O)(O)(O)OC[C@H]([C@H]([C@@H]([C@H](C(=O)O)O)O)O)O | C6H13O10P
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
